US07534894B2
Step 5: 1-Benzyl-N-{[3′-bromo-4′-(1H-tetraazol-5-ylmethoxy)-1,1′-biphenyl-4-yl]methyl}-N-methyl-1H-indole-3-carboxamide.
A mixture of 1-benzyl-N-{[3′-bromo-4′-(cyanomethoxy)-1,1′-biphenyl-4-yl]methyl}-N-methyl-1H-indole-3-carboxamide (1.56 g, 2.76 mmol), prepared in the previous step, sodium azide (542 mg, 8.34 mmol) and ammonium chloride (446 mg, 8.33 mmol) in 30 mL of DMF was stirred under nitrogen at 100° C. for 6 h. After cooling to room temperature the reaction was diluted with 50 mL of water, made basic by the addition of 10 mL of 1 N NaOH and extracted five times with ethyl acetate. The aqueous layer was filtered and then acidified with 20 mL of 1 N HCl. An oil precipitated. The aqueous layer was decanted and the oil partitioned between methylene chloride and water. The organic layer was separated, dried (MgSO4) and the solvent removed under reduced pressure to give the title compound (1.22 g, 72%) as a light yellow foam, MS (ESI) m/z 607 [M+H]+. Elemental Analysis for C32H27BrN6O2.0.08 H2O: Calc'd: C, 63.12; H, 4.50; N, 13.80; Found: C, 61.37; H, 4.65; N, 12.89.

reactant | 1-benzyl-N-{[3′-bromo-4′-(cyanomethoxy)-1,1′-biphenyl-4-yl]methyl}-N-methyl-1H-indole-3-carboxamide | 2.76 mmol, 1.56 g | C(C1=CC=CC=C1)N1C=C(C2=CC=CC=C12)C(=O)N(C)CC1=CC=C(C=C1)C1=CC(=C(C=C1)OCC#N)Br | C32H26BrN3O2
reactant | sodium azide | 8.34 mmol, 542 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 8.33 mmol, 446 mg | [Cl-].[NH4+]
reactant | NaOH | 1 N, 10 mL | [OH-].[Na+]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | water | 50 mL | O | H2O
product | 1-Benzyl-N-{[3′-bromo-4′-(1H-tetraazol-5-ylmethoxy)-1,1′-biphenyl-4-yl]methyl}-N-methyl-1H-indole-3-carboxamide | 1.22 g, 72% | C(C1=CC=CC=C1)N1C=C(C2=CC=CC=C12)C(=O)N(C)CC1=CC=C(C=C1)C1=CC(=C(C=C1)OCC1=NN=NN1)Br | C32H27BrN6O2
